US06713645B1
C. Preparation of 2,9-dibenzyl-4-oxo-5-carbomethoxy-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole
To a solution of 2-benzyl-4-oxo-5-carbomethoxy-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole (0.928 g, 2.78 mmol) in dry tetrahydrofuran (5 mL) was added 60% sodium hydride in oil (111 mg). The resulting mixture was stirred at room temperature until gas evolution ceased. A solution of benzyl iodide (0.606. g, 2.78 mmol) in dry tetrahydrofuran (5 mL) was added to the reaction mixture and the resulting solution stirred at room temperature for 60 h. The mixture was diluted with methylene chloride and washed twice with saturated sodium chloride solution. The organic layer was dried (magnesium sulfate), filtered, and concentrated in vacuo. The residue was triturated with ethyl acetate resulting in a yellow precipitate (163 mg). The filtrate was concentrated in vacuo and chromatographed (silica gel, 5% methanol/95% methylene chloride) to provide an additional 580 mg of the title compound (743 mg total, 63%) as a crystalline solid: mp 198-199° C. 1H NMR (CDCl3) d 7.43 (d, J=7 Hz, 1 H), 7.36 (d, J=8 Hz, 1 H), 7.25 (m, 9 H), 6.95 (m, 2 H), 5.24 (s, 2 H), 4.01 (s, 3 H), 3.78 (m, 4 H), 3.40 (bs, 2 H); MS EI+ m/e 425 (p+1); IR (KBr, cm−1) 1726, 1648, 1449, 1291, 1134, 1107.

reactant | 2-benzyl-4-oxo-5-carbomethoxy-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 2.78 mmol, 0.928 g | C(C1=CC=CC=C1)N1CC=2NC3=CC=CC(=C3C2C(C1)=O)C(=O)OC | C20H18N2O3
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl iodide | 2.78 mmol | C(C1=CC=CC=C1)I | C7H7I
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,9-dibenzyl-4-oxo-5-carbomethoxy-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 580 mg, 63% | C(C1=CC=CC=C1)N1CC=2N(C3=CC=CC(=C3C2C(C1)=O)C(=O)OC)CC1=CC=CC=C1 | C27H24N2O3
